US07138533B2
(±)-8-{3-[1-(1,2,3,4-Tetrahydro-1-naphthalenyl)-4-piperidinyl]propanoyl}-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
Using 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (500 mg) and (±)-1-chloro-1,2,3,4-tetrahydronaphthalene (280 mg) according to the same method as that of Example 330, the title compound (43 mg) was obtained as pale yellow amorphous powders.

reactant | 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 500 mg | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | (±)-1-chloro-1,2,3,4-tetrahydronaphthalene | 280 mg | ClC1CCCC2=CC=CC=C12 | C10H11Cl
product | (±)-8-{3-[1-(1,2,3,4-Tetrahydro-1-naphthalenyl)-4-piperidinyl]propanoyl}-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 43 mg | Cl.C1(CCCC2=CC=CC=C12)N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C29H34N2O2.ClH/c32-27(24-18-22-9-11-28(33)31-17-14-23(19-24)29(22)31)10-8-20-12-15-30(16-13-20)26-7-3-5-21-4-1-2-6-25(21)26;/h1-2,4,6,18-20,26H,3,5,7-17H2;1H
